US09255089B2
To a solution of compound 4-(3,5-dimethylisoxazol-4-yl)-2-nitroaniline (334 g, 1.43 mol, 1.0 eq) in ethanol (3.3 L) were added iodine (726 g, 2.8 mol, 2.0 eq) and silver nitrate (485 g, 2.8 mol, 2.0 eq). The reaction mixture was stirred at rt overnight, filtered, and the filtrate was evaporated to dryness. The residue was dissolved in EtOAc (5 L) and washed with water and brine, and dried over sodium sulfate. The organic solvent was evaporated to give a residue, which was purified by flash column chromatography on silica gel (PE/EA=4:1-3:1) to give compound 393 g of 4-(3,5-dimethylisoxazol-4-yl)-2-iodo-6-nitroaniline as an orange solid.

reactant | 4-(3,5-dimethylisoxazol-4-yl)-2-nitroaniline | 1.43 mol, 334 g, 1.0 eq | CC1=NOC(=C1C1=CC(=C(N)C=C1)[N+](=O)[O-])C | C11H11N3O3
reactant | iodine | 2.8 mol, 726 g, 2.0 eq | II | I2
solvent | ethanol | 3.3 L | C(C)O | C2H6O
catalyst | silver nitrate | 2.8 mol, 485 g, 2.0 eq | [N+](=O)([O-])[O-].[Ag+]
product | 4-(3,5-dimethylisoxazol-4-yl)-2-iodo-6-nitroaniline | 393 g | CC1=NOC(=C1C1=CC(=C(N)C(=C1)[N+](=O)[O-])I)C | C11H10IN3O3
